US07183311B2
2-Acetylamino-7-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide
The title compound was prepared by the same procedure as Example 3 except that 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide was replaced with 2-amino-7-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide to give the above title compound as light grey solid. ESMS m/z: 317 [M+H]+.

reactant | 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide | NC1=C(C2=C(S1)C1=CC=CC=C1C2)C(=O)N | C12H10N2OS
reactant | 2-amino-7-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide | NC1=C(C2=C(S1)C1=CC=C(C=C1CC2)OC)C(=O)N | C14H14N2O2S
product | 2-Acetylamino-7-methoxy-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide | C(C)(=O)NC1=C(C2=C(S1)C1=CC=C(C=C1CC2)OC)C(=O)N | C16H16N2O3S
